US07977354B2
Stage A: 5-hydroxynicotinic acid
To 10.1 g (0.05 mol) of 5-bromonicotinic acid was added 10 g of NaOh dissolved in 63 mL of water, 3.1 g of coppersulfate pentahydrate and 0.42 g of copper (0). The reaction mixture was vigorously stirred and heated under reflux for 30 hours. After cooling the mixture to room temperature, 4.8 g of Na2S.H2O was added and stirring was pursued overnight. The reaction mixture was heated to 70° C. and treated with H2S gas until disappearance of the white precipitate (3 h). After cooling to room temperature, the mixture was filtered and the pH of the filtrate was adjusted to 5.2 with concentrated hydrochloric acid. The precipitate was filtered and the pH of the % filtrate was adjusted to 4.6 with concentrated hydrochloric acid. The white precipitate was then filtered, washed with water and dried under reduced pressure giving 4.3 g (yield: 62%) of product of molecular formula C7H5NO3. Aspect: white powder.

reactant | 5-bromonicotinic acid | 0.05 mol, 10.1 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | H2S | S | H2S
reactant | water | 63 mL | O | H2O
catalyst | copper (0) | 0.42 g | [Cu] | Cu
product | 5-hydroxynicotinic acid | 4.3 g, yield: 62% | OC=1C=NC=C(C(=O)O)C1 | C6H5NO3
